US06235731B1
To a solution of 25.63 g (0.2942 M) of 3-pyrrolidinol in tetrahydrofuran (150 ml)-ethanol (50 ml) was added 70.6 g (0.324 M) of di-tert-butyl dicarbonate dropwise at room temperature and the mixture was stirred at room temperature for 1 hour. The solvent was then distilled off under reduced pressure to provide crude t-butyl 3-hydroxypyrrolidine-1-carboxylate. To a solution of 56.0 g (0.441 M) of oxalyl chloride in 400 ml of tetrahydrofuran was added 62.6 ml (0.883 M) of dimethyl sulfoxide dropwise at −78° C. and the mixture was stirred for 5 minutes. Then, a solution of the above crude tert-butyl 3-hydroxypyrrolidine-1-carboxylate in 150 ml of tetrahydrofuran was added dropwise and the mixture was stirred at −78° C. for 15 minutes. To this reaction mixture was added 246 ml (1.77 M) of triethylamine, and after room temperature was reestablished, the mixture was poured in water and extracted with 3 portions of ethyl acetate. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure. This crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1 to 3/1) to provide the title compound.

reactant | 3-pyrrolidinol | 0.2942 M, 25.63 g | N1CC(CC1)O | C4H9NO
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | di-tert-butyl dicarbonate | 0.324 M, 70.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | t-butyl 3-hydroxypyrrolidine-1-carboxylate | OC1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
